US05389659
Phenylmethoxy-2,4-hexandione
2-Butanone (47.65 ml) was added dropwise over 10 min to a mechanically stirred suspension of sodium amide (95%; 20.78 g) dry ether (600 ml) at room temperature under nitrogen. The reaction mixture was stirred at room temperature for 15 min. A solution of methyl phenylmethoxyacetate (48.0 g) in dry ether (50 ml) was added dropwise over 13 min at room temperature under nitrogen, and the reaction progressed according to the method of Intermediate 16, to give the title compound as a yellow oil (23.35 g)

reactant | 2-Butanone | 47.65 ml | CC(CC)=O | C4H8O
reactant | sodium amide | 20.78 g | [NH2-].[Na+]
reactant | methyl phenylmethoxyacetate | 48.0 g | C1(=CC=CC=C1)COCC(=O)OC | C10H12O3
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 600 ml | CCOCC | C4H10O
product | Phenylmethoxy-2,4-hexandione | 23.35 g | C1(=CC=CC=C1)COCC(CC(CC)=O)=O | C13H16O3
